US06087502
To 300 ml of methylene chloride was dissolved 10 g/82 mmol of 2,6-dimethylphenol, and the solution was cooled to 0° C. in sodium chloride-ice bath. After adding 49 g/368 mmol of anhydrous aluminum chloride, methylene chloride solution of 7.3 g/40 mmol of adipic dichloride was added dropwise to the mixture with thorough stirring while maintaining the temperature to not more than 5° C. The reaction mixture was added to 50 ml of ice containing conc. hydrochloric acid to decompose excessive anhydrous aluminum chloride, and the mixture was extracted twice with methylene chloride. The organic layer was washed with saturated sodium chloride solution, and dried with anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was recrystalized from toluene to obtain 2.5 g of 1,6-bis(3',5'-dimethyl-4'-hydroxyphenyl)hexane-1,6-dione. MS: 354 (M+).

reactant | 2,6-dimethylphenol | 82 mmol | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | aluminum chloride | 368 mmol | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | adipic dichloride | 40 mmol | C(CCCCC(=O)Cl)(=O)Cl | C6H8Cl2O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 1,6-bis(3',5'-dimethyl-4'-hydroxyphenyl)hexane-1,6-dione | 2.5 g | CC=1C=C(C=C(C1O)C)C(CCCCC(=O)C1=CC(=C(C(=C1)C)O)C)=O | C22H26O4
